US04486589
2-(Dichloromethyl)-N-[(4-methoxy-6-methyl-1,3,5-triazin-2-yl)aminocarbonyl]benzenesulfonamide
2-(Dichloromethyl)benzenesulfonyl isocyanate prepared from 10 mmol of sulfonamide as described in the synthesis of Example 1, was treated with acetonitrile (15 ml) and 2-amino-4-methoxy-6-methyl-1,3,5-triazine (1.40 g). The mixture was stirred for 18 hrs. and filtered. The filtrate was evaporated and recrystallized from acetone to give 0.78 g of white solid, mp. 168°-169° (dec). 1H nmr δDMSO-d6TMS 8.37-7.50 (m, featuring singlet at 8.07), 7.00-6.17 (brds), 4.00 (s), 2.48 (s). IR (nujol) featured bands at 1720 and 1590 cm-1. Mass spectrum featured 264.9367 (calc'd for C8H5Cl2NO3S 264.9367) and 140.0687 (calc'd for C5H8N4O 140.0697).

reactant | 2-(Dichloromethyl)benzenesulfonyl isocyanate | ClC(C1=C(C=CC=C1)S(=O)(=O)N=C=O)Cl | C8H5Cl2NO3S
reactant | 2-amino-4-methoxy-6-methyl-1,3,5-triazine | 1.40 g | NC1=NC(=NC(=N1)OC)C | C5H8N4O
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 2-(Dichloromethyl)-N-[(4-methoxy-6-methyl-1,3,5-triazin-2-yl)aminocarbonyl]benzenesulfonamide | 0.78 g | ClC(C1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=NC(=N1)OC)C)Cl | C13H13Cl2N5O4S
